US07666879B2
B. 3-(6-Amino-4-tert-butyl-pyridin-3-yl)-N,N-dimethyl-acrylamide
De-gas a mixture of 5-bromo-4-tert-butyl-pyridin-2-ylamine (330 mg, 1.4 mol), N,N-dimethylacrylamide (0.22 mL, 2.1 mmol), triethylamine (0.4 mL, 2.1 mmol) in toluene (4 mL) while purging with nitrogen for 3 minutes. Add palladium(II)acetate (60 mg, 0.28 mmol) and tetrakis(triphenylphosphine)palladium(0) (690 mg, 0.6 mmol) under nitrogen. Heat the reaction overnight in sealed vessel at 120° C. Cool the mixture to room temperature, filter through Celite® and concentrate. Purification by silica gel column chromatography (100% DCM to 3% MeOH in DCM) to yield the title compound (81% yield). LCMS (ES), m/z 248 (M+1).

reactant | 5-bromo-4-tert-butyl-pyridin-2-ylamine | 1.4 mol, 330 mg | BrC=1C(=CC(=NC1)N)C(C)(C)C | C9H13BrN2
reactant | N,N-dimethylacrylamide | 2.1 mmol, 0.22 mL | CN(C(C=C)=O)C | C5H9NO
reactant | triethylamine | 2.1 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.28 mmol, 60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.6 mmol, 690 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(6-Amino-4-tert-butyl-pyridin-3-yl)-N,N-dimethyl-acrylamide | 81% yield | NC1=CC(=C(C=N1)C=CC(=O)N(C)C)C(C)(C)C | C14H21N3O
